US05041641
To an ice-cooled solution of 0.21 g (1 mmol) of (S)-(-)-1-(pentafluorophenyl)ethanol and 0.17 g (1.5 mmol) of methanesulfonyl chloride in 2 m(of ether, was added dropwise 0.22 m((1.6 mmol) of triethylamine. After it was stirring for two hours at room temperature, 1N hydrochloric acid was added to the reaction mixture and was extracted with ether. This ether solution was washed with 1N hydrochloric acid and an aqueous solution of 5 wt% potassium carbonate , and the solvent was distilled off under reduced pressure. The subsequent distillation gave 0.24 g (yield: 83%) of (S)-(-)-1-(pentafluorophenyl)ethyl methanesulfonate having the aforementioned physical properties.

reactant | (S)-(-)-1-(pentafluorophenyl)ethanol | 1 mmol, 0.21 g | FC1=C(C(=C(C(=C1[C@H](C)O)F)F)F)F | C8H5F5O
reactant | methanesulfonyl chloride | 1.5 mmol, 0.17 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 1.6 mmol | C(C)N(CC)CC | C6H15N
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | ether | CCOCC | C4H10O
product | (S)-(-)-1-(pentafluorophenyl)ethyl methanesulfonate | 0.24 g, yield: 83% | CS(=O)(=O)O[C@@H](C)C1=C(C(=C(C(=C1F)F)F)F)F | C9H7F5O3S
